US06156700
Preparation of Methyl 2-{{2-{5-[3,6-dihydro-3-methyl-2-oxo-6-thioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}-propionate
A mixture of methyl 2-{{2-{5-[3,6-dihydro-3-methyl-4-(trifluoromethyl)-2,6-dioxo-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}propionate (2.00 g, 3.80 mmol), sodium hydrogen carbonate (1.24 g, 14.8 mmol) and Lawesson's Reagent (2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide, 1.70 g, 4.20 mmol) in toluene is refluxed for two hours, filtered to remove solids, and concentrated in vacuo to obtain an orange foam. Column chromatography of the foam using silica gel, and 0% and 1% diethyl ether in methylene chloride solutions gives the title product as an orange foam (1.45 g, mp 110-112° C.) which is identified by NMR spectral analyses.

reactant | methyl 2-{{2-{5-[3,6-dihydro-3-methyl-4-(trifluoromethyl)-2,6-dioxo-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}propionate | 3.80 mmol, 2.00 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C2=C(C=CC(=C2)OC(C(=O)OC)C)C)C1)=O | C24H20F3N3O5S
reactant | sodium hydrogen carbonate | 14.8 mmol, 1.24 g | C(O)([O-])=O.[Na+]
reactant | Lawesson's Reagent | 4.20 mmol, 1.70 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 2-{{2-{5-[3,6-dihydro-3-methyl-2-oxo-6-thioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}-propionate | 1.45 g | CN1C(N(C(C=C1C(F)(F)F)=S)C=1C=CC2=C(C(=NS2)C2=C(C=CC(=C2)OC(C(=O)OC)C)C)C1)=O | C24H20F3N3O4S2
